US05401851
2-(4-Nitro-1H-imidazol-1-yl) octanoic acid (7.8 mmoles,2.0 g) was treated with 25 ml oxalyl chloride, concentrated and added to a solution of trifluoroethylamine hydrochloride (7.8 mmoles, 1.06 g) and triethylamine (2 ml) in 50 ml THF. After stirring at room temperature for 16 hours, the mixture was added to ice, extracted with ethyl acetate, dried over sodium sulfate, and concentrated. The intermediate was chromatographed over silica gel to yield 0.6 g of N-(2,2,2-trifluoro)ethyl-2-(4-nitro-1H-imidazol-1-yl)octanoamide. (MS).

reactant | 2-(4-Nitro-1H-imidazol-1-yl) octanoic acid | 7.8 mmoles, 2.0 g | [N+](=O)([O-])C=1N=CN(C1)C(C(=O)O)CCCCCC | C11H17N3O4
reactant | oxalyl chloride | 25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifluoroethylamine hydrochloride | 7.8 mmoles, 1.06 g | Cl.FC(CN)(F)F
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(2,2,2-trifluoro)ethyl-2-(4-nitro-1H-imidazol-1-yl)octanoamide | 0.6 g | FC(CNC(C(CCCCCC)N1C=NC(=C1)[N+](=O)[O-])=O)(F)F | C13H19F3N4O3
